US06566367B2
To a stirring mixture of 5-methyl-pyridin-2-ylamine (1.0 g, 9.25 mmol) and pyridine (20 ml) in dry CH2Cl2 add phenylchloroformate (2.2 g, 13.9 mmol) and stir for 24 hours at room temperature. Add water and a solution of 1:1 EtOAc/hexanes and separate the organic layer. Wash the organic layer with 1N HCl three times and with brine once. Dry the organic layer over Na2SO4, filter, and evaporate in vacuo. Purify by flash column chromatography (0-10% EtOAc/CH2Cl2) to obtain (5-methyl-pyridin-2-yl)-carbamic acid phenyl ester. Mass spec.: M+1=229 (AP+).

reactant | 5-methyl-pyridin-2-ylamine | 9.25 mmol, 1.0 g | CC=1C=CC(=NC1)N | C6H8N2
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
reactant | phenylchloroformate | 13.9 mmol, 2.2 g | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (5-methyl-pyridin-2-yl)-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC1=NC=C(C=C1)C)=O | C13H12N2O2
